US05872115
Step 2): Zinc powder (7.81 g, 119 mmol) was added slowly to a solution of 2-nitro-N-(2,6-diisopropylphenyl)benzamide (2.0 g, 6.3 mmol) in acetic acid (38.3 ml) below 10° C. The mixture was stirred for 2 hours at room temperature. The excess reagent was filtered off and the filtrate was neutralized with 10% NaOH solution. The mixture was extracted with ethyl acetate. The organic layer was dried (MgSO4) and concentrated. The residue was recrystallized (ethyl acetate/hexane) to give 2-amino-N-(2,6-diisopropylphenyl)benzamide (77.1%): mp 207°-209° C.

reactant | 2-nitro-N-(2,6-diisopropylphenyl)benzamide | 6.3 mmol, 2.0 g | [N+](=O)([O-])C1=C(C(=O)NC2=C(C=CC=C2C(C)C)C(C)C)C=CC=C1 | C19H22N2O3
solvent | acetic acid | 38.3 ml | C(C)(=O)O | C2H4O2
catalyst | Zinc | 119 mmol, 7.81 g | [Zn] | Zn
product | 2-amino-N-(2,6-diisopropylphenyl)benzamide | 77.1% | NC1=C(C(=O)NC2=C(C=CC=C2C(C)C)C(C)C)C=CC=C1 | C19H24N2O
